US06531502B1
4-Methoxy-3-phenylbenzaldehyde was condensed with 5-chloro-2-oxindole to give 0.3 g of 5-chloro-3-(6-methoxybiphenyl-3-ylmethylene)-1,3-dihydroindol-2-one as a yellow-orange solid.

reactant | 4-Methoxy-3-phenylbenzaldehyde | COC1=C(C=C(C=O)C=C1)C1=CC=CC=C1 | C14H12O2
reactant | 5-chloro-2-oxindole | ClC=1C=C2CC(NC2=CC1)=O | C8H6ClNO
product | 5-chloro-3-(6-methoxybiphenyl-3-ylmethylene)-1,3-dihydroindol-2-one | 0.3 g | ClC=1C=C2C(C(NC2=CC1)=O)=CC=1C=C(C(=CC1)OC)C1=CC=CC=C1 | C22H16ClNO2
